US07825135B2
tert-Butyl 4-cyano-4-(6-methylpyridin-2-yl)piperidine-1-carboxylate (II-2) (5.41 g, 18 mmole) was added 4M HCl in dioxane (60 mL). The resulting reaction mixture was stirred for 2 h at rt. After this time, LCMS indicated that the reaction was completion. The reaction was concentrated to afford 4-(6-methylpyridin-2-yl)piperidine-4-carbonitrile dihydrochloride (II-3) as a white solid. Analytical LCMS: single peak (214 nm), 1.669 min. This product was used in next step without further purification.

reactant | tert-Butyl 4-cyano-4-(6-methylpyridin-2-yl)piperidine-1-carboxylate | 18 mmole, 5.41 g | C(#N)C1(CCN(CC1)C(=O)OC(C)(C)C)C1=NC(=CC=C1)C | C17H23N3O2
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 60 mL | O1CCOCC1 | C4H8O2
product | 4-(6-methylpyridin-2-yl)piperidine-4-carbonitrile dihydrochloride | Cl.Cl.CC1=CC=CC(=N1)C1(CCNCC1)C#N | InChI=1S/C12H15N3.2ClH/c1-10-3-2-4-11(15-10)12(9-13)5-7-14-8-6-12;;/h2-4,14H,5-8H2,1H3;2*1H
